US04294960
Propargyl bromide (4.16 g.) was added to a suspension of ethyl 2-(2-tritylaminothiazol-4-yl)-2-hydroxyiminoacetate (syn isomer, 10 g.), potassium carbonate (4.84 g.) and N,N-dimethylformamide (22 ml.) under atmosphere of nitrogen gas and stirred at room temperature for 100 minutes. The insoluble substance was filtered off and washed with a little of N,N-dimethylformamide. The filtrate and washing solution were combined together, and water (400 ml.) was added to the solution. After the suspension was extracted with ethyl acetate (400 ml.), the extract was washed with a saturated aqueous solution of sodium chloride and dried over magnesium sulfate. After treating the solution with activated charcoal, the solution was concentrated in vacuo. The residue was triturated with diisopropyl ether. The precipitates were collected by filtration, and washed with diisopropyl ether to give ethyl 2-(2-tritylaminothiazol-4-yl)-2-propargyloxyiminoacetate (syn isomer, 8.34 g.).

reactant | Propargyl bromide | 4.16 g | C(C#C)Br | C3H3Br
reactant | ethyl 2-(2-tritylaminothiazol-4-yl)-2-hydroxyiminoacetate | 10 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NC=1SC=C(N1)C(C(=O)OCC)=NO | C26H23N3O3S
reactant | potassium carbonate | 4.84 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 22 ml | CN(C=O)C | C3H7NO
product | ethyl 2-(2-tritylaminothiazol-4-yl)-2-propargyloxyiminoacetate | 8.34 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NC=1SC=C(N1)C(C(=O)OCC)=NOCC#C | C29H25N3O3S
